US05288719
(a) Preparation of 1,1-dimethylethyl [3-[[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]-oxazepin-10-yl)-2-oxoethyl]amino]-3-oxopropyl]carbamoate
To a stirred solution of N-[(1,1-dimethylethoxy)carbonyl]-β-alanine (0.72 gram) in anhydrous tetrahydrofuran (20 mL) at 5° C. under a nitrogen atmosphere was added, in portions, 1,1'-carbonyldiimidazole (0.67 gram). The reaction was stirred at 5° C. for 30 minutes, and then at room temperature for 90 minutes. To the reaction was then added 10-(aminoacetyl)-8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine (1.00 gram), and the reaction was stirred at room temperature under a nitrogen atmosphere overnight. The reaction was partitioned between saturated aqueous sodium bicarbonate (50 mL) and chloroform (50 mL). The layers were separated, and the aqueous layer was extracted with chloroform (50 mL), and the chloroform extracts were combined, washed with 25 mL each of saturated aqueous sodium bicarbonate, water, and brine, dried over MgSO4, and evaporated in vacuo. The crude product was purified by flash chromatography through silica gel 60 (350 mL) using 3:1 ethyl acetate:hexane. The yield of the title compound was 1.23 grams (77%).

reactant | N-[(1,1-dimethylethoxy)carbonyl]-β-alanine | 0.72 gram | CC(C)(OC(=O)NCCC(=O)O)C | C8H15NO4
reactant | 1,1'-carbonyldiimidazole | 0.67 gram | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 10-(aminoacetyl)-8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine | 1.00 gram | NCC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C15H13ClN2O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl [3-[[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]-oxazepin-10-yl)-2-oxoethyl]amino]-3-oxopropyl]carbamoate | ClC1=CC2=C(OC3=C(CN2C(CNC(CCNC(OC(C)(C)C)=O)=O)=O)C=CC=C3)C=C1 | C23H26ClN3O5
